US05929074
N-Benzyloxycarbonyl-3-(3-chloropropoxy)-4-methoxybenzylamine
A mixture comprising 20 g of N-benzyloxycarbonyl-3-hydroxy-4-methoxybenzylamine, 14.43 g of potassium carbonate, 16.44 g of bromochloropropane and 200 ml of 2-butanone, was refluxed under heating with stirring for 16 hours. The mixture was cooled to room temperature. Then, inorganic substances were filtered off, and the filtrate was distilled under reduced pressure. The obtained residue was extracted with chloroform, and the organic layer was washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off. The obtained residue was crystallized from diethyl ether/n-hexane to obtain 23.19 g of the above-identified compound as white crystals.

reactant | N-benzyloxycarbonyl-3-hydroxy-4-methoxybenzylamine | 20 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC(=C(C=C1)OC)O | C16H17NO4
reactant | potassium carbonate | 14.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromochloropropane | 16.44 g | BrC(CC)Cl | C3H6BrCl
solvent | 2-butanone | 200 ml | CC(CC)=O | C4H8O
product | N-Benzyloxycarbonyl-3-(3-chloropropoxy)-4-methoxybenzylamine | 23.19 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC(=C(C=C1)OC)OCCCCl | C19H22ClNO4
